### PR TITLE
[Merged by Bors] - feat(Algebra/Category/Ring): Tensor product over Z is coproduct in `CommRingCat`

### PR DESCRIPTION
**Pull request by justus-springer**
Show that the tensor product over the integers is a coproduct in the category of commutative rings. This is needed for constructing a `ChosenFiniteProducts` instance for the category of affine schemes. It would be nice to have the more general statement for commutative `R`-algebras, but it seems like mathlib does not define the category of commutative `R`-algebras yet.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/BinaryCoproducts.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+  desc (s : BinaryCofan A B) :=
+    ofHom (Algebra.TensorProduct.lift s.inl.hom.toIntAlgHom s.inr.hom.toIntAlgHom
+      (fun _ _ => by apply Commute.all)).toRingHom
+  fac (s : BinaryCofan A B) := by
+    rintro ⟨j⟩
+    cases j <;> ext a
+    · simp only [forget_obj, pair_obj_left, tensorProductCocone_pt, Functor.const_obj_obj,
+        BinaryCofan.ι_app_left, pair_obj_right, AlgHom.toRingHom_eq_coe, CommRingCat.comp_apply,
+        coe_of]
+      erw [Algebra.TensorProduct.lift_tmul (hfg := fun _ _ => by apply Commute.all)]
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/BinaryCoproducts.lean:57]: Do you understand why this `erw` is needed? Is there a missing lemma?
Or maybe it goes away after merging master? Because there were refactors or concrete categories like `CommRingCat` in the past days.

Comment (justus-springer) [reply Mathlib/Algebra/Category/Ring/BinaryCoproducts.lean:57]: No I don't know exactly why it's needed. I'll merge master and look at it again.

Comment (justus-springer) [reply Mathlib/Algebra/Category/Ring/BinaryCoproducts.lean]: You're right, simp closes the goal now (it did not originally as far as I recall).

**Comment by justus-springer** [comment]
As @erdOne suggested in #19977, I moved the content to the file `Constructions.lean`, which already contains similar constructions of colimits in `CommRingCat`. I also changed some names to better match the existing content.

File: Mathlib/Algebra/Category/Ring/Constructions.lean [hunk 2]
```diff
@@ -116,6 +117,60 @@ lemma isPushout_tensorProduct (R A B : Type u) [CommRing R] [CommRing A] [CommRi
...
+      rw [map_one, mul_one]
+      have : _ = s.inl := hm (Discrete.mk WalkingPair.left)
+      rw [←this]
+      rfl
+    · ext b
+      dsimp
+      rw [map_one, one_mul]
+      have : _ = s.inr := hm (Discrete.mk WalkingPair.right)
+      rw [←this]
+      rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Constructions.lean:165]:
```suggestion
    · ext a
      simp [map_one, mul_one, ←hm (Discrete.mk WalkingPair.left)]
    · ext b
      simp [map_one, mul_one, ←hm (Discrete.mk WalkingPair.right)]
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
